US06066655
2-Methoxyethyl 2-acetyl-3-(2,4-difluorophenyl)-2-propenoate
5.0 g (35 mmol) of 2,4-difluorobenzaldehyde are dissolved with 5.7 g (35 mmol) of 2-methoxyethyl acetoacetate in 100 ml of isopropanol. A freshly prepared solution of 1.0 ml of piperidine and 0.5 ml of glacial acetic acid in 5 ml of isopropanol is added and the mixture is stirred at 40° C. overnight. The mixture is concentrated, the residue is taken up in toluene, this mixture is concentrated again and the residue is purified by filtration over 100 ml of silica gel (mobile phase: toluene/ethyl acetate 100:1) to give 5 g of the target compound as a yellow oil, which is immediately reacted further.

reactant | 2,4-difluorobenzaldehyde | 35 mmol, 5.0 g | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | 2-methoxyethyl acetoacetate | 35 mmol, 5.7 g | C(CC(=O)C)(=O)OCCOC | C7H12O4
reactant | piperidine | 1.0 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | 2-Methoxyethyl 2-acetyl-3-(2,4-difluorophenyl)-2-propenoate | 5 g | C(C)(=O)C(C(=O)OCCOC)=CC1=C(C=C(C=C1)F)F | C14H14F2O4
